Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
giant paraesophageal hernia

 
Major Surgical or Invasive Procedure:
___
1.  Laparoscopic reduction of hiatal hernia.
2.  Repair of diaphragm with pledgets.
3.  ___ fundoplication.

 
History of Present Illness:
Mr ___ is a ___ with who presented
with dysphagia was found on EGD ___ yrs ago to have a large
eccentric hiatal hernia, ___ erosions a tortuous esophagus
and schatszki's ring which was then dilated. No further
dysphagia. He presents for eval for hiatal hernia repair due to
increasing size of the hernia. Currently he denies dysphagia, or
abd pain. Reflux controlled on PPIs. He only admits to fatigue
from his ___.

 
Past Medical History:
htn
chest pain non cardiac
dysphagia
esophageal stricture, Schatzki's ring, s/p multiple dilations
GERD
actinic keratosis
___ lesion, chronic
Hiatal hernia
___
RLS
BCC back 
ankle pain 
s/p lap BIH repair
s/p lap Incisional hernia repair
s/p right hip surgery (metal in)
s/p bilat TKR
 
Social History:
___
Family History:
FAMILY HISTORY:
Mother
Father: heart failure
Siblings
Offspring
Other
 
Physical Exam:
General: NAD
Respiratory: non-labored
Abdomen: Soft, appropriately tender. Incisions CDI
Exts: WWP
 
Pertinent Results:
___ 03:23AM BLOOD WBC-10.4* RBC-4.35* Hgb-13.2* Hct-39.2* 
MCV-90 MCH-30.3 MCHC-33.7 RDW-15.8* RDWSD-52.6* Plt ___
___ 03:23AM BLOOD Glucose-99 UreaN-18 Creat-0.8 Na-136 
K-4.6 Cl-101 HCO3-23 AnGap-12
___ 03:23AM BLOOD Calcium-9.2 Phos-3.7 Mg-1.9

 
Brief Hospital Course:
Patient admitted to the thoracic surgery inpatient service 
following reduction of hiatal hernia and nissen fundoplication. 
For full details please see the operative report. After a stay 
in the PACU he was transferred to the floor in stable condition. 
His diet was advanced from NPO to softs on POD1 which he 
tolerated well. His pain was controlled initially with IV meds 
but transitioned to PO only at the time of discharge. He was 
initially unable to void and required placement of a foley 
catheter which was removed on the day of discharge at which time 
he was voiding spontaneously. At the time of discharge his vital 
signs were stable. He was discharged to home in stable 
condition. The discharge plan was discussed with the patient who 
expressed understanding and agreement. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Esomeprazole 40 mg Other DAILY 
2. Lisinopril 10 mg PO DAILY 
3. rOPINIRole 2 mg PO DAILY 
4. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
5. Ferrous Sulfate 325 mg PO DAILY 

 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*2 
2.  Milk of Magnesia 30 mL PO Q12H:PRN constipation  
3.  Acetaminophen 1000 mg PO Q6H 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every six (6) 
hours Disp #*100 Tablet Refills:*0 
4.  Esomeprazole 40 mg Other DAILY  
5.  Ferrous Sulfate 325 mg PO DAILY  
6.  Lisinopril 10 mg PO DAILY  
7.  rOPINIRole 2 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Giant paraesophageal hernia
Urinary retention

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
* You underwent a laparoscopic hernia repair and have done well 
since your surgery. You are ready to be discharged home. Please 
follow the instructions below to ensure a safe recovery. 

Call ___ office ___ if you experience:
-Fevers > 101 or chills
-Difficult or painful swallowing
-Nausea, vomiting. 
-Increased shortness of breath

Pain
-Acetaminophen 1000 mg every 6 hrs
-Take stool softners while taking narcotics to prevent 
constipation
-No driving while taking narcotics

Activity
-Shower daily. Wash incision with mild soap and water, rinse, 
pat dry
-No tub bathing, swimming or hot tubs until incision healed
-No lotions or creams to incision
-Walk ___ times a day for ___ minutes increase to a Goal of 30 
minutes daily

Diet:
Continue a soft solid diet until you are seen in clinic. 

Eat small frequent meals. Sit in chair for all meals. Remain 
sitting up for ___ minutes after all meals

NO CARBONATED DRINKS

 
Followup Instructions:
___